US07435744B2
2-(4-Benzyl-piperidin-1-yl)-2-oxo-N-[3-(1H-tetrazol-5-yl)-phenyl]-acetamide (45 7001984)
A mixture of 0.7 g (2 mmol) of 2-(4-benzyl-piperidin-1-yl)-N-(3-cyanophenyl)-2-oxo-acetamide, 0.82 g (4 mmol) of azidotrimethyltin (Aldrich) and 20 ml of toluene is refluxed for 20 hours. The precipitated crystals are filtered off and treated with 20 ml of N hydrochloric acid to yield 0.42 g (54%) of the title compound. Melting Point: 159-161° C. (water)

reactant | 2-(4-benzyl-piperidin-1-yl)-N-(3-cyanophenyl)-2-oxo-acetamide | 2 mmol, 0.7 g | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC(=CC=C1)C#N)=O | C21H21N3O2
reactant | azidotrimethyltin | 4 mmol, 0.82 g | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Benzyl-piperidin-1-yl)-2-oxo-N-[3-(1H-tetrazol-5-yl)-phenyl]-acetamide | 0.42 g, 54% | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC(=CC=C1)C1=NN=NN1)=O | C21H22N6O2
